US05869516
1b) 4-(2-Ethylphenylaminomethylene)-5-methyl-2-(4-nitrophenyl)-2,4-dihydro-3-pyrazolone
1 g of 5-methyl-2-(4-nitrophenyl)-2,4-dihydro-3-pyrazolone, 190 mg of 1,3,5-triazine and 0.74 ml of 2-ethylaniline are heated under reflux in 50 ml of ethanol for 4 days. The solvent is evaporated off in vacuo, and the crude reaction product obtained in this way is purified by chromatography on silica gel with a solvent mixture consisting of dichloromethane and methanol mixed in the ratio of 97:3 as eluent.

reactant | 5-methyl-2-(4-nitrophenyl)-2,4-dihydro-3-pyrazolone | 1 g | CC=1CC(N(N1)C1=CC=C(C=C1)[N+](=O)[O-])=O | C10H9N3O3
reactant | 1,3,5-triazine | 190 mg | N1=CN=CN=C1 | C3H3N3
reactant | 2-ethylaniline | 0.74 ml | C(C)C1=C(N)C=CC=C1 | C8H11N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-(2-Ethylphenylaminomethylene)-5-methyl-2-(4-nitrophenyl)-2,4-dihydro-3-pyrazolone | C(C)C1=C(C=CC=C1)NC=C1C(N(N=C1C)C1=CC=C(C=C1)[N+](=O)[O-])=O | C19H18N4O3
